US04243672
Pyridine (8.80 g.) in dry methylene chloride (100 ml.) was added dropwise to a stirred solution of oxalyl chloride (13.96 g.) in dry methylene chloride (300 ml.) at -70° to give a white precipitate. The mixture was stirred at -70° for 15 minutes and then a solution of 2-methylpyrrole (8.10 g.) in dry methylene chloride (75 ml.) was added over 30 minutes. The mixture was stirred at -70° for a further 3 hours and then allowed to warm up to -20° giving a clear solution. Ethanol (25 ml.) was added and the solution was allowed to reach room temperature. The solution was washed with N hydrochloric acid (3×100 ml.) followed by water (3×100 ml.) and then dried over sodium sulphate. Evaporation of the solvent gave a dark oil which solidified on standing. The solid was dissolved in hot petroleum ether (B.P. 60°-80°) and some insoluble material was filtered off. The solid which crystallized from the cooled filtrate was chromatographed on silica gel. Elution with a mixture of chloroform and petroleum ether (B.P. 60°-80°) (3:1) gave a solid which was crystallized from petroleum ether (B.P. 60°-80°) to give 5-methyl-2-pyrrolylglyoxylic acid ethyl ester (11.4 g.), M.P. 72°-74°. Found: C, 59.72; H, 6.54; N, 7.47. C9H11NO3 requires: C, 59.66; H, 6.16; N, 7.77%.

reactant | Pyridine | 8.80 g | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 13.96 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methylpyrrole | 8.10 g | CC=1NC=CC1 | C5H7N
reactant | Ethanol | 25 ml | C(C)O | C2H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-2-pyrrolylglyoxylic acid ethyl ester | 11.4 g | C(C)OC(C(=O)C=1NC(=CC1)C)=O | C9H11NO3
